US06265434B1
Step A: 1-Bromo-3,5-difluoro-4-(benzyloxy)benzene
To a solution of 5.0 g (24.0 mmol) of 2,6 difluoro-4-bromophenol in 20 ml of DMF at rt was added 5 g (36.0 mmol) of K2CO3 followed by 4.5 g (26.3 mmol) of benzyl bromide. The mixture was stirred for 12 h, diluted with H2O, the organic phase washed with sat'd NaCl, and the aqueous phase was then extracted 3× with CH2Cl2. The combined organic layers were dried over Na2SO4 and concentrated. Flash chromatography with a gradient of 0-15% ethyl acetate/hexanes (v/v) afforded 6.3 g (88%) of the title compound: 1H NMR (500 MHz) δ 5.17 (s, 21), 7.06-7.11 (2H). 7.34-7.45 (5H).

reactant | 2,6 difluoro-4-bromophenol | 24.0 mmol, 5.0 g | FC1=C(C(=CC(=C1)Br)F)O | C6H3BrF2O
reactant | K2CO3 | 36.0 mmol, 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 26.3 mmol, 4.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-Bromo-3,5-difluoro-4-(benzyloxy)benzene | 6.3 g, 88% | BrC1=CC(=C(C(=C1)F)OCC1=CC=CC=C1)F | C13H9BrF2O
